US07705027B2
[5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(3-chloro-phenyl)-isoxazol-3-ylmethyl]-ethyl-amine
To a solution of 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide (36 mg, 0.06 mmol) in anhydrous THF under argon was added 1M Borane-THF complex (1 ml) and the solution refluxed overnight. After cooling the solution was poured on to a Isolute® SPE Flash SCX-2 5 g column which was quickly eluted with methanol (2×20 ml). The desired product was then recovered by eluting with a mixture of 10% ammonia in methanol (2×10 ml) which was evaporated in vaccuo to provide 23 mg (65% yield) of a light yellow powder.

reactant | 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide | 0.06 mmol, 36 mg | C(C)NC(=O)C1=NOC(=C1C1=CC(=CC=C1)Cl)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H26Cl2N2O4
solvent | THF | C1CCOC1 | C4H8O
product | [5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(3-chloro-phenyl)-isoxazol-3-ylmethyl]-ethyl-amine | 23 mg, 65% yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=C(C(=NO1)CNCC)C1=CC(=CC=C1)Cl | C32H28Cl2N2O3
